US05238908
c. 7-fluoro-4-isobutyl-2H-1,4-benzoxazin-3(4H)-one
To 3.96 g (99 mmol) of hexanes washed 60% sodium hydride in 150 ml of N,N-dimethylformamide was added portionwise as a solid 15 g (90 mmol) of 7-fluoro-2H-1,4-benzoxazin-3(4H)-one. When the addition was complete the reaction was stirred at room temperature for 10 min, after which time 19.8 g (108 mmol) of isobutyl iodide was added. The reaction was then stirred overnight before quenching onto 200 ml of water. The aqueous phase was extracted with EtOAc (2×150 ml) and the combined organics were dried over Na2SO4, filtered and evaporated in vacuo to give the desired alkylated product, as a yellow oil (13 g, 65% yield).

reactant | sodium hydride | [H-].[Na+]
reactant | 7-fluoro-2H-1,4-benzoxazin-3(4H)-one | 90 mmol, 15 g | FC1=CC2=C(NC(CO2)=O)C=C1 | C8H6FNO2
reactant | isobutyl iodide | 108 mmol, 19.8 g | C(C(C)C)I | C4H9I
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 7-fluoro-4-isobutyl-2H-1,4-benzoxazin-3(4H)-one | 13 g, 65% yield | FC1=CC2=C(N(C(CO2)=O)CC(C)C)C=C1 | C12H14FNO2
